US04894386
Triethylamine (8.32 g) was added slowly to a stirred mixture of methyl 4-[5-formyl-1-propylindol-3-ylmethyl]-3-methoxybenzoate (10 g), succinic anhydride (5.5 g) and zinc chloride (11.4 g) in methylene chloride (50 ml), under a nitrogen atmosphere, such that the temperature of the reaction did not exceed 25°. After complete addition, the mixture was stirred for 15 hr, poured into a mixture of 2M hydrochloric acid (500 ml) and ethyl acetate (500 ml), the layers separated and the aqueous layer extracted with ethyl acetate. The combined extracts were washed (water (three times), brine), dried (MgSO4) and evaporated. The product was dissolved in aqueous sodium bicarbonate (300 ml, 6% w/v), and the solution extracted with ether. The aqueous layer was neutralized with 6M hydrochloric acid, acidified to pH 4 with 1M hydrochloric acid, and extracted with ethyl acetate. The extracts were washed (water (twice), brine), dried (MgSO4) and evaporated to give methyl 4-[5-(3-carboxy-2,3,4,5-tetrahydro-5-oxofuran-2-yl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate (12.36 g, 97%, as a mixture of diastereomers) as an off-white foam: partial NMR (300 MHz, DMSO-d6): 0.83(m, 3H, CH3, both isomers), 3.83(s, 3H, OCH3, both isomers), 3.91(s, 3H, OCH3, both isomers), 5.61(d, 0.5H, CHOC(O), isomer A), 5.87(d, 0.5H, CHOC(O) isomer B).

reactant | Triethylamine | 8.32 g | C(C)N(CC)CC | C6H15N
reactant | methyl 4-[5-formyl-1-propylindol-3-ylmethyl]-3-methoxybenzoate | 10 g | C(=O)C=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)OC)C=C1)OC | C22H23NO4
reactant | succinic anhydride | 5.5 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | hydrochloric acid | 2M, 500 ml | Cl | ClH
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | zinc chloride | 11.4 g | [Cl-].[Zn+2].[Cl-]
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | methyl 4-[5-(3-carboxy-2,3,4,5-tetrahydro-5-oxofuran-2-yl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate | C(=O)(O)C1C(OC(C1)=O)C=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)OC)C=C1)OC | C26H27NO7
